US07973169B2
40) 4-Methyl-N-(4-p-tolyl-thiazol-2-yl)-benzamide
4-p-Tolyl-thiazol-2-ylamine (38.1 mg, 0.200 mmol) and 4-methyl-benzoyl chloride (30.9 mg, 0.200 mmol) were dissolved in 1,4-dioxane (2 mL) containing triethylamine (84.1 μL, 0.600 mmol). The reaction mixture was stirred overnight at room temperature. The crude product was filtered, evaporated to dryness, dissolved in 1 mL of dimethylsulfoxide and purified by reverse-phase preparative liquid chromatography (13.5 mg, 0.0438, 21.9%). ESI-MS m/z calc. 308.1, found 309.0 (M+1)+ Retention time 3.72 minutes.

reactant | 4-p-Tolyl-thiazol-2-ylamine | 0.200 mmol, 38.1 mg | C1(=CC=C(C=C1)C=1N=C(SC1)N)C | C10H10N2S
reactant | 4-methyl-benzoyl chloride | 0.200 mmol, 30.9 mg | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
reactant | triethylamine | 0.600 mmol, 84.1 μL | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 4-Methyl-N-(4-p-tolyl-thiazol-2-yl)-benzamide | CC1=CC=C(C(=O)NC=2SC=C(N2)C2=CC=C(C=C2)C)C=C1 | C18H16N2OS
